US06225324B1
A solution of dimethyl 2-bromobenzylphosphonate (5.5 g, 18.7 mmol) in THF was added slowly to a mixture of NaH (0.8 g of a 60% mineral oil dispersion, 20 mmol) in THF (75 ml) and ethanol (0.5 ml) and the mixture was stirred for 45 min. A solution of 1-(tert-butyloxycarbonyl)-hexahydro-4 H-azepin-4-one (3.98 g, 18.7 mmol) in THF was added dropwise and the mixture was heated to reflux for 5 hr. The mixture was cooled and quenched with water. The mixture was diluted with ethyl acetate, washed with water, and dried with brine. The organic layer was concentrated in vacuo. The residue was purified by chromatography on silica gel using 5% ethyl acetate/hexane to give 1-(tert-butoxycarbonyl)-4-[(2-bromophenyl)methylene]-hexahydro4 H-azepine as a clear oil that solidified upon standing (4.3 g, 62.8%).

reactant | dimethyl 2-bromobenzylphosphonate | 18.7 mmol, 5.5 g | BrC1=C(CP(OC)(OC)=O)C=CC=C1 | C9H12BrO3P
reactant | NaH | [H-].[Na+]
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | 1-(tert-butyloxycarbonyl)-hexahydro-4 H-azepin-4-one | 18.7 mmol, 3.98 g | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-4-[(2-bromophenyl)methylene]-hexahydro4 H-azepine | C(C)(C)(C)OC(=O)N1CCC(CCC1)=CC1=C(C=CC=C1)Br | C18H24BrNO2
